US06071943
3'-Amino-2'-hydroxyacetophenone (1.51 g, 10 mmol) was dissolved in 50 ml of acetone, and potassium carbonate (6.90 g, 50 mmol) was added to the solution. 4-(4-Phenylbutoxy)benzoyl chloride (2.89 g, 10 mmol) was added dropwise to the mixture under stirring at 0° C., and stirring was conducted further for 3 hours. The resultant reaction mixture was poured into a 10% hydrochloric acid (100 ml) to conduct extraction with chloroform. An organic layer was washed with water, dried and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. Crystals obtained from a fraction eluted with chloroform were recrystallized from ethanol to obtain 2.82 g (yield: 70%) of 2-hydroxy-3-[4-(4-phenylbutoxy)benzamido)]acetophenone.

reactant | 3'-Amino-2'-hydroxyacetophenone | 10 mmol, 1.51 g | NC=1C(=C(C=CC1)C(C)=O)O | C8H9NO2
reactant | potassium carbonate | 50 mmol, 6.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-Phenylbutoxy)benzoyl chloride | 10 mmol, 2.89 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=O)Cl)C=C1 | C17H17ClO2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
